US07524852B2
In the same way as Example 92 mentioned later, 4-(N-tert-butoxycarbonyl-2-chloro-4-fluorobenzylamino)-6-cyclopropylcarbonyl-2-[4-(2-pyrrolidin-1-ylacetyl)piperidino]-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine was prepared from 4-(N-tert-butoxycarbonyl-2-chloro-4-fluorobenzylamino)-2-chloro-6-cyclopropylcarbonyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine prepared according to Process Step 1 and tert-butyl 4-(2-pyrrolidin-1-ylacetyl)piperidinecarboxylate prepared according to Reference Example 12.

reactant | 4-(N-tert-butoxycarbonyl-2-chloro-4-fluorobenzylamino)-2-chloro-6-cyclopropylcarbonyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | C(C)(C)(C)OC(=O)N(C=1C2=C(N=C(N1)Cl)CCN(C2)C(=O)C2CC2)CC2=C(C=C(C=C2)F)Cl | C23H25Cl2FN4O3
reactant | tert-butyl 4-(2-pyrrolidin-1-ylacetyl)piperidinecarboxylate | N1(CCCC1)CC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C16H28N2O3
product | 4-(N-tert-butoxycarbonyl-2-chloro-4-fluorobenzylamino)-6-cyclopropylcarbonyl-2-[4-(2-pyrrolidin-1-ylacetyl)piperidino]-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | C(C)(C)(C)OC(=O)N(C=1C2=C(N=C(N1)N1CCC(CC1)C(CN1CCCC1)=O)CCN(C2)C(=O)C2CC2)CC2=C(C=C(C=C2)F)Cl | C34H44ClFN6O4
